US07618975B2
(2-Methyl-quinazolin-4-yl)-(pyridin-4-yl)-amine
The title compound was prepared from 4-chloro-2-methyl-quinazoline and 4-amino-pyridine by a procedure similar to examples 100. 1H NMR (CDCl3): 8.58 (m, 1H), 7.79-7.93 (m, 5H), 7.70 (s, broad, 1H), 7.55 (ddd, J=1.2, 6.9, 8.1, 1H), 2.79 (s, 3H).

reactant | 4-chloro-2-methyl-quinazoline | ClC1=NC(=NC2=CC=CC=C12)C | C9H7ClN2
reactant | 4-amino-pyridine | NC1=CC=NC=C1 | C5H6N2
product | (2-Methyl-quinazolin-4-yl)-(pyridin-4-yl)-amine | CC1=NC2=CC=CC=C2C(=N1)NC1=CC=NC=C1 | C14H12N4
